US06586441B2
2-Amino-4-furan-2-yl-6-(pyridin-3-ylmethoxy)-pyrimidine-5-carbonitrile
From 2-amino-4-furan-2-yl-6-methanesulfinyl-pyrimidine-5-carbonitrile, 3-(hydroxymethyl)pyridine and DBU in DME. EI-MS m/e (%): 293 (M+, 54), 276 ([M—NH3]+, 36), 92 (100), 65 (44), 39 (23).

reactant | 2-amino-4-furan-2-yl-6-methanesulfinyl-pyrimidine-5-carbonitrile | NC1=NC(=C(C(=N1)C=1OC=CC1)C#N)S(=O)C | C10H8N4O2S
reactant | 3-(hydroxymethyl)pyridine | OCC=1C=NC=CC1 | C6H7NO
reactant | DBU | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | DME | COCCOC | C4H10O2
product | 2-Amino-4-furan-2-yl-6-(pyridin-3-ylmethoxy)-pyrimidine-5-carbonitrile | NC1=NC(=C(C(=N1)C=1OC=CC1)C#N)OCC=1C=NC=CC1 | C15H11N5O2
